US08084477B2
A solution containing 5,5,5-trifluoro-2-oxopentanoic acid (100 mg, 0.588 mmoles), R,S-alanine (200 mg, 2.244 mmoles), and 0.02 mM pyridoxal phosphate, in 0.1 M potassium phosphate buffer, pH 7.5, was incubated with R-transaminase AT-103 from Biocatalytics (5 mg, 44units) or cloned R-transaminase from Bacillus thuringiensis SC 16569 (0.5 mL, 10 units, BMS transaminase) at 30° C. in a total volume of 5 mL in 15 mL tubes for 44 h. Reaction yields of (R)-5,5,5-trifluoro-2-aminopentanoic acid of 49% and 48% were obtained with AT-103 and BMS transaminases, respectively. Ee was 100% in both cases.

reactant | 5,5,5-trifluoro-2-oxopentanoic acid | 0.588 mmoles, 100 mg | FC(CCC(C(=O)O)=O)(F)F | C5H5F3O3
reactant | pyridoxal phosphate | 0.02 mM | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
solvent | potassium phosphate | 0.1 M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | (R)-5,5,5-trifluoro-2-aminopentanoic acid | FC(CC[C@H](C(=O)O)N)(F)F | C5H8F3NO2
